US07973169B2
31) N-[5-(2-Chloro-benzyl)-1-methyl-1H-imidazol-2-yl]-2-phenyl-butyramide
5-(2-Chloro-benzyl)-1-methyl-1H-imidazol-2-ylamine (44 mg, 0.20 mmol) and 2-phenyl-butyric acid (33 mg, 0.20 mmol) were dissolved in N,N-dimethylformamide (1 mL) containing triethylamine (84.1 μL, 0.600 mmol). O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (84 mg, 0.22 mmol) was added and the solution was allowed to stir for 16 hours. The crude product was purified by reverse-phase preparative liquid chromatography (13 mg, 0.035 mmol, 18%). ESI-MS m/z calc. 367.2, found 368.1 (M+1)+ Retention time 2.42 minutes.

reactant | 5-(2-Chloro-benzyl)-1-methyl-1H-imidazol-2-ylamine | 0.20 mmol, 44 mg | ClC1=C(CC2=CN=C(N2C)N)C=CC=C1 | C11H12ClN3
reactant | 2-phenyl-butyric acid | 0.20 mmol, 33 mg | C1(=CC=CC=C1)C(C(=O)O)CC | C10H12O2
reactant | triethylamine | 0.600 mmol, 84.1 μL | C(C)N(CC)CC | C6H15N
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.22 mmol, 84 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | N-[5-(2-Chloro-benzyl)-1-methyl-1H-imidazol-2-yl]-2-phenyl-butyramide | ClC1=C(CC2=CN=C(N2C)NC(C(CC)C2=CC=CC=C2)=O)C=CC=C1 | C21H22ClN3O
